US05476933
In a 500 mL beaker NaIO4 (Baker, used as received, 10.6 g, 49.6 mmol) was dissolved in water (distilled, 450 mL) and stirred magnetically. 2-Methoxyhydroquinone (2.2 g, 15.7 mmol) was added giving an orange solution. The mixture was stirred at rt for 1 h then extracted with CH2Cl2 (3×100 mL). The organic extract was washed with brine (1×100 mL), dried by filtering through cotton and evaporated to dryness (roto-vap) giving 2-methoxy-1,4-benzoquinone as a yellow solid (2.1 g, 97%, one spot on TLC, Rf =0.5, >95% pure by 1H NMR): mp 141°-143° C., 1H NMR (CDCl3) δ3.85 (s, 3H), 5.98 (s, 1H), 6.75 (s, 2H).

reactant | 2-Methoxyhydroquinone | 15.7 mmol, 2.2 g | COC1=C(O)C=CC(=C1)O | C7H8O3
solvent | water | 450 mL | O | H2O
product | 2-methoxy-1,4-benzoquinone | COC=1C(C=CC(C1)=O)=O | C7H6O3
